US03982001
d. 4-Hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine
39.4 g. 1-benzyl-4-hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine are dissolved in 400 ml. methanol and the solution is mixed with 30 ml. 4-N hydrochloric acid. To this mixture is then added 3 g. of a palladium/carbon catalyst which has been suspended in 60 ml. alcohol. The mixture is hydrogenized at 35° - 40°C under normal pressure. After 3300 ml. hydrogen has been absorbed, hydrogenation is stopped and the cataylst is removed from the mixture by filtering. The mother liquor is heavily concentrated and the 4-hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine hydrochloride with a melting point of 198° - 200°C crystallizes out.

reactant | 1-benzyl-4-hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC2=C(C=C1)OCO2)O | C19H21NO3
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium/carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 4-Hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine | OC1(CCNCC1)C1=CC2=C(C=C1)OCO2 | C12H15NO3
